US06017917
To a mixture of 3-methoxycarbonyl-5-(2,5-dichlorophenyl)benzoic acid (1.0 g), N,N-dimethylethylenediamine (0.223 g) and 1-hydroxybenzotriazole (0.376 g) in N,N-dimethylformamide (10 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (0.533 g) under ice cooling, and then the solution was stirred for five hours at room temperature. After evaporating the solvent, the residue was dissolved in a mixture of ethyl acetate (50 ml) and water (50 ml) and adjusted to pH 10 with 6N aqueous potassium carbonate solution with stirring. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (100 ml) eluting with a mixture of chloroform and methanol (20:1). The fractions containing the desired product were collected and evaporated in vacuo. The residue was dissolved in ethanol (8 ml) and added slightly excess 4N hydrogen chloride in dioxane to afford methyl 5-(2,5-dichlorophenyl)-3-[(2-dimethylaminoethyl)carbamoyl)benzoate.hydrochloride (0.43 g).

reactant | 3-methoxycarbonyl-5-(2,5-dichlorophenyl)benzoic acid | 1.0 g | COC(=O)C=1C=C(C(=O)O)C=C(C1)C1=C(C=CC(=C1)Cl)Cl | C15H10Cl2O4
reactant | N,N-dimethylethylenediamine | 0.223 g | CN(CCN)C | C4H12N2
reactant | 1-hydroxybenzotriazole | 0.376 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.533 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 5-(2,5-dichlorophenyl)-3-[(2-dimethylaminoethyl)carbamoyl)benzoate.hydrochloride | 0.43 g | Cl.ClC1=C(C=C(C=C1)Cl)C=1C=C(C=C(C(=O)OC)C1)C(NCCN(C)C)=O | InChI=1S/C19H20Cl2N2O3.ClH/c1-23(2)7-6-22-18(24)13-8-12(9-14(10-13)19(25)26-3)16-11-15(20)4-5-17(16)21;/h4-5,8-11H,6-7H2,1-3H3,(H,22,24);1H
